US08022062B2
7-Chloro-6-(3-methoxycarbonylpropylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine Hydrochloride
Use a method similar to the Example 347, using 3-tert-butoxycarbonyl-7-chloro-6-dimethylcarbamoylthio-2,3,4,5-tetrahydro-1H-benzo[d]azepine and methyl 4-bromobutyrate to give, after deprotection by the General Procedure 1-4, the title compound as a white solid. MS (ES+) m/z: 314 (M+H)+.

reactant | 3-tert-butoxycarbonyl-7-chloro-6-dimethylcarbamoylthio-2,3,4,5-tetrahydro-1H-benzo[d]azepine | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)SC(N(C)C)=O | C18H25ClN2O3S
reactant | methyl 4-bromobutyrate | BrCCCC(=O)OC | C5H9BrO2
product | 7-Chloro-6-(3-methoxycarbonylpropylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine Hydrochloride | Cl.ClC1=C(C2=C(CCNCC2)C=C1)SCCCC(=O)OC | InChI=1S/C15H20ClNO2S.ClH/c1-19-14(18)3-2-10-20-15-12-7-9-17-8-6-11(12)4-5-13(15)16;/h4-5,17H,2-3,6-10H2,1H3;1H
